Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Oxycodone / Percocet / Reglan
 
Attending: ___.
 
Chief Complaint:
abdominal pain  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ F with h/o HCV (VL 414,937; 
contracted from forcible injection with needle), remote ovarian 
torsion, endometriosis, nephrolithiasis and conversion disorder 
(multiple cranial neuropathies) who is transferred to ___ 
Hepatology service from ___ for evaluation of 
acute lower abdominal pain.  
She initially presented to ___ on ___ for nausea, vomiting 
and lower abdominal/pelvic abdominal pain that began on ___. 
The pain is located in the suprapubic area and radiates to her 
left flank. It is comes in "waves" and feels the same as prior 
episodes of nephrolithiasis. Improved by bringing her knees to 
her chest or pressing on the area with her hand. Also improved 
with IV morphine. No aggravating factors. Patient also complains 
of occasional streaks of blood in her vomit. At ___ she 
complained of constipation x2 days PTA; here she states she'd 
had 1 episode of diarrhea but no constipation. Currently her BMs 
are formed and regular. Patient started her menstrual period on 
___, menses are now over. She is sexually active and uses 
condoms for birth control. Denies any unusual vaginal discharge 
or vaginal pain/pruritis. Endorses h/o endometriosis but says 
this pain feels much worse than that. Also c/o dysuria, no 
hesitancy or frequency. She denies fever or chills, sick 
contacts, ingestions.  
At ___ her initial vitals were 98.4, 85, 103/69, 18, 100% 
RA. Had small amount of hematemesis in the ED. Labs were notable 
for elevated LFTs (see labs below) c/w her known hepatitis that 
were stable from prior admissions. Lipase 122. Hepatitis 
serologies revealed positive HCV antibody, negative HAV and HBV 
studies. She received opioids (morphine, dilaudid) and zofran 
for her symptoms. While hospitalized, she was seen by GI Consult 
who performed EGD on ___. This was entirely unremarkable. She 
had urgent transvaginal ultrasound with dopplers which was 
showed unremarkable uterus, fallopian tubes and ovaries. 
Noncontrast CT ___ was unremarkable except for a 0.4cm 
cystic mass within the uterus which may communicate with the 
endometrial cavity. She was evaluated by Gynecology as inpt, who 
felt she did not require any further workup. Given unrevealing 
inpatient workup and ongoing abdominal pain, patient is now 
transferred from ___ to ___ for further workup of the 
pain.  
On arrival to ___, vitals are 97.8, 109/75, 76, 18, 97% RA. Pt 
complains of suprapubic pain which radiates to her flank, is 
paroxysmal, and feels "the same as when I had kidney stones in 
the past". C/O nausea and says she last vomited this morning. 
Denies ongoing hematesis. No diarrhea since ___.  
Of note, pt has h/o HCV which was diagnosed in ___. She 
states it occurred in setting of being "forcibly injected" with 
a syringe when kidnapped by a gang. She was admitted to ___ in 
___ for acute left flank pain of unclear etiology, 
ultimately thought ___ endometriosis. CT ___ showed no 
nephrolithiasis. Her LFTs rose during hospitalization and she 
underwent extensive testing for other causes of acute hepatitis 
including RUQ U/S, iron studies, autoimmune/inflammatory panel, 
and infectious studies. (Please see D/C summary from ___ for 
full summary of studies performed). EBV PCR was elevated, so 
thought acute EBV could be exacerbating her hepatitis. She also 
underwent liver bx on ___ which showed chronic HCV with grade 
II inflamm and stage 1 fibrosis.  
ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, BRBPR, melena, dysuria, 
hematuria.  
 
 
Past Medical History:
- Hepatitis C genotype 1a- contracted six months ago when she  
was forcibly injected with a needle that contained a sedative  
(viral load 43,189)  
- nephrolithiasis  
- Bell's Palsy (+multiple other cranial neuropathies on ___ 
hospitalization resulting in failed video swallow, found to have 
conversion/somatization disorder or enhanced Bell's)  
- anxiety disorder  
- migraines  
- chronic lymphadenopathy  
- s/p ovarian torsion surgery ___ ago at ___)  
- ovarian cysts, dysmenorrhea  
- have ruled out AIP with neg urine protoporphyrins  
 
Social History:
___
Family History:
Father: HTN  
Mother: DM, Breast Ca, uterine Ca, deceased  

 
Physical Exam:
ADMISSION EXAM:
VS: 97.8, 109/75, 76, 18, 97% RA  
General: well and non-toxic appearing young woman in NAD, 
pleasant and cooperative, talking comfortably with examiner  
HEENT: NC/AT, MMM, no icterus  
Neck: supple, no JVD or LAD  
CV: RRR S1 S2 no R/M/G  
Lungs: CTABL  
Abdomen: soft, nondistended, +BS. +Rebound tenderness in 
suprapubic area but no guarding whatsoever. +TTP in left flank. 
No organomegaly.  
GU: no foley  
Ext: WWP, tattoo in left foot, no C/C/E  
Neuro: +left UPPER facial flattening, no lower facial flattening 
(not C/W Bell's palsy). Other cranial nerves grossly intact. 
MAEE with ___ strength throughout. Toes downgoing bilaterally.  
Skin: no rashes or lesions noted.  

DISCHARGE EXAM:
97.6 99/55 68 18 98% RA
General: well appearing young woman in NAD
HEENT: NC/AT, MMM, no icterus  
Neck: supple, no JVD or LAD  
CV: RRR S1 S2 no R/M/G  
Lungs: CTAB
Abdomen: soft, ND, +BS. +Tenderness in suprapubic area and LLQ. 
No guarding. No organomegaly.  
GU: no foley  
Ext: WWP, tattoo in left foot, no C/C/E  
Neuro: +left UPPER facial flattening, no lower facial flattening 
(not C/W Bell's palsy). Other cranial nerves grossly intact. 
MAEE with ___ strength throughout.   
Skin: no rashes or lesions noted. 
 
Pertinent Results:
___ 08:05AM BLOOD WBC-6.8 RBC-4.55 Hgb-12.6 Hct-38.9 MCV-86 
MCH-27.6 MCHC-32.3 RDW-14.0 Plt ___
___ 08:05AM BLOOD Glucose-88 UreaN-4* Creat-0.7 Na-143 
K-4.2 Cl-108 HCO3-28 AnGap-11
___ 08:05AM BLOOD ___ PTT-37.4* ___
___ 08:05AM BLOOD ALT-71* AST-65* LD(LDH)-143 AlkPhos-87 
TotBili-0.7
___ 08:05AM BLOOD Albumin-3.6 Calcium-8.7 Phos-3.8 Mg-1.9
___ 08:05AM BLOOD HCG-<5
___ 08:05AM BLOOD Lipase-22

___ 10:55AM URINE RBC-5* WBC-32* Bacteri-MOD Yeast-NONE 
Epi-12 TransE-1

___ 10:55AM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-8* pH-7.0 Leuks-MOD

___: RPR negative. GC/CT pending.

___ Pelvic US:
A small amount of free fluid is noted in the pelvis, likely 
physiologic.  
  
IMPRESSION: 
Normal pelvic sonogram with no evidence of torsion.  

 
Brief Hospital Course:
___ F with h/o HCV (VL ___; contracted from forcible 
injection with needle), remote ovarian torsion, endometriosis, 
nephrolithiasis and conversion disorder (multiple cranial 
neuropathies) who is transferred to ___ Hepatology service 
from ___ for evaluation of acute lower abdominal 
pain.  

#Abdominal pain: at ___, pt had an entirely normal workup 
including CT abd and 2 transvaginal US which only noted some 
free fluid in the pelvis near her left ovary. Repeat U/S 
completed here confirmed that there was no pathology, aside from 
the free fluid. LFTs were found to be consistent with her known 
hepatitis C infection. UA here was found to be positive, with 
sediment positive for RBCs. hCG and RPR were negative, and GC/CT 
were pending at time of discharge. It was discussed w the 
patient that she likely has some abd pain that she previously 
would have been able to tolerate, but due to her recent 
PTSD/sexual abuse lower abd pain triggers an intense subconcious 
stress response that leads to uncontrollable nausea and anxiety, 
to which she agreed.  

#UTI: pt complained of dysuria during admission and, urine 
sediment was found to be positive for WBC and RBCs. Pt was 
started on ciprofloxacin, after which her abdominal pain 
improved. She was discharged on cipro.

#PTSD: Pt has PTSD following reported kidnapping by gang six 
months ago with subsequetnt rape. Home prazosin and trazodone 
were continued for anxiety/insomnia during admission.  She 
described that she should not receive IV push narcotics any 
longer as it triggers her PTSD.

#Bell's palsy & conversion disorder: these were stable during 
admission. 

Transitional Issues:
- NO IV PUSH NARCOTICS -> triggers PTSD
- if presenting with abdominal pain, please strongly consider 
that pelvic examination and transvaginal ultrasound can trigger 
a PTSD response
- f/u urine culture
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluoxetine 20 mg PO DAILY 
2. TraZODone 100 mg PO HS:PRN anxiety, insomnia 
3. Prazosin 2 mg PO HS:PRN anxiety 

 
Discharge Medications:
1. Fluoxetine 20 mg PO DAILY 
2. Prazosin 2 mg PO HS:PRN anxiety 
3. TraZODone 100 mg PO HS:PRN anxiety, insomnia 
4. Acetaminophen 650 mg PO Q6H 
Please make sure that you do not take MORE THAN 4 GRAMS a day. 
5. Ciprofloxacin HCl 500 mg PO Q12H 
6. Naproxen 500 mg PO Q8H:PRN abd pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
PTSD
UTI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for worsening abdominal pain 
and nausea/vomiting. You had a negative workup including a CT 
scan of your abdomen and 3 ultrasounds.  Your symptoms resolved 
over the course of your stay. It is likely that your pain is due 
to a ruptured ovarian follicle (due to fluid being noted around 
the left ovary near your pain), which is self limiting.  It is 
also possible that your pain was due to a UTI.
 
Followup Instructions:
___